US05763700
1-(4-Ethoxyphenyl)-1-(2-fluoro-2-(methoxycarbonyl)ethenyl)cyclopropane
The method of Example 1 was repeated using zinc powder (4.1 g), copper (I) chloride (0.63 g), molecular sieve 4A (4.2 g), tetrahydrofuran (72 ml), 1-(4-ethoxyphenyl)-1-formylcyclopropane (4.7 g), acetic anhydride (2.6 ml) and methyl dichloro-fluoroacetate (3.3 g) to yield the title compound (3.4 g, 52%).

reactant | 1-(4-ethoxyphenyl)-1-formylcyclopropane | 4.7 g | C(C)OC1=CC=C(C=C1)C1(CC1)C=O | C12H14O2
reactant | acetic anhydride | 2.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl dichloro-fluoroacetate | 3.3 g | ClC(C(=O)OC)(F)Cl | C3H3Cl2FO2
catalyst | zinc | 4.1 g | [Zn] | Zn
catalyst | copper (I) chloride | 0.63 g | [Cu]Cl
solvent | tetrahydrofuran | 72 ml | O1CCCC1 | C4H8O
product | 1-(4-Ethoxyphenyl)-1-(2-fluoro-2-(methoxycarbonyl)ethenyl)cyclopropane | 3.4 g, 52% | C(C)OC1=CC=C(C=C1)C1(CC1)C=C(C(=O)OC)F | C15H17FO3
